US04977155
To a solution of 0,38 g (1,4 mmol) 2,3-dihydroxy-pyrazino(2,3-f)quinoxaline in 25 ml concentrated sulfuric acid was added at 0° C. 0,28 g (2,8 mmol) potassium nitrate. Stirring was continued at 0° C. for 30 min. and at 25° C. for 24 h. The reaction mixture was poured into 100 ml ice-water. The solution was added 10N sodium hydroxide to pH 7, and then extracted with ethyl acetate (5×100 ml). The combined and dried ethyl acetate phases were evaporated to give 0,17 g (47%) 2,3-dihydroxy-6-nitropyrazino(2,3-f)quinoxaline, m.p.>300° C. NMR (DMSO-d6) g.10 (2H,s), 8.23 (1H,s).

reactant | 2,3-dihydroxy-pyrazino(2,3-f)quinoxaline | 1,4 mmol, 0,38 g | OC=1C(=NC=2C(=C3N=CC=NC3=CC2)N1)O | C10H6N4O2
reactant | potassium nitrate | 2,8 mmol, 0,28 g | [N+](=O)([O-])[O-].[K+]
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-dihydroxy-6-nitropyrazino(2,3-f)quinoxaline | 0,17 g, 47% | OC=1C(=NC=2C(=C3N=CC=NC3=C(C2)[N+](=O)[O-])N1)O | C10H5N5O4
